US05688789
2-(4-Chlorophenyl)-1-phenyl-1-ethanone (2).
To a suspension of aluminum chloride (1.27 g, 9.52 mmol) in 30 ml dry benzene under nitrogen was added at room temperature 4-chlorophenylacetyl chloride 0.80 g, 9.52 mmol) over a period of 30 minutes as a solution in 10 ml benzene. The resulting clear, pale yellow solution was refluxed for six hours. After cooling to room temperature, the resulting grey-brown solution was poured into 100 ml ice water. The layers were separated and the aqueous portion extracted with benzene (1×20 ml). The combined organic portions were washed with water (2×30 ml), 10% NaOH (1×30 ml), water (1×30 ml), and brine (1×30 ml), and dried over magnesium sulfate. Filtration through Celite afforded, after concentration in vacuo, 2.18 g of the ketone as a white crystalline solid (99% crude yield): Rf 0.46 (benzene); 1H NMR (CDCl3) 8.03 (d, J=7.2 Hz, 2H), 7.63-7.21 (m, 7H), 4.29 (s, 2H). A portion (ca. 1 g) of the ketone was recrystallized from 75 mi boiling pet. ether/ethanol (5:1) to give a fluffy white crystalline solid: m.p. 132.5°-134.0° C. (lit. m.p. 135°-136° C.; Loeshorn, C. H. et al., J. Org. Chem. 48:4409 (1983)).

reactant | aluminum chloride | 9.52 mmol, 1.27 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 4-chlorophenylacetyl chloride | 9.52 mmol, 0.80 g | ClC1=CC=C(C=C1)CC(=O)Cl | C8H6Cl2O
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | 2-(4-Chlorophenyl)-1-phenyl-1-ethanone | ClC1=CC=C(C=C1)CC(=O)C1=CC=CC=C1 | C14H11ClO
